US06921433B2
As a dispersing agent having a crosslinkable functional group, 9.5 parts of a styrene/methacrylic acid copolymer (acid value: 290; molecular weight: 15,000) were dissolved in 80 parts of dimethyl sulfoxide, and 10 parts of an isoindolinone pigment (C.I. Pigment Yellow 109) were suspended in the resultant solution in a flask at 25° C. under an air atmosphere. A 30% methanol solution of potassium hydroxide was then added dropwise little by little to dissolve the isoindolinone pigment. After the pigment solution was stirred for 3 hours, p-phenylene-bis(ethyl)carbodiimide as a crosslinking agent was added to and dissolved in the pigment solution in a proportion of 1 part per 10 parts of the pigment, and the resultant solution was quickly poured into ion-exchanged water (400 parts of ion-exchanged water per 10 parts of the pigment; 0° C.) stirred by an impellor type agitating blade (800 rpm), purged with nitrogen and cooled and temperature-maintained by means of 2 system dispensers (manufactured by Musashi Engineering K.K.; needle internal diameter: 0.57 mm; delivery pressure: 4.0 kgf/cm2) to obtain an aqueous dispersion of isoindolinone-pigment-containing particles having an average particle diameter of 35.6 nm. This aqueous dispersion was transferred to a reaction vessel equipped with a mantle heater, cooling tower, stirrer and thermometer, this system was purged with nitrogen with stirring at 300 rpm, 10% hydrochloric acid was added dropwise to adjust the pH of the reaction mixture to 4.75. After continuing the reaction for additional 5 hours, the resultant aggregates were filtered under reduced pressure through a membrane filter (holding particle diameter: 0.45 am) and washed 3 times with 500 ml of ion-exchanged water to obtain paste of an aqueous dispersion of the isoindolinone-pigment-containing particles desalted and desolvated.

reactant | styrene methacrylic acid | C=CC1=CC=CC=C1.C(C(=C)C)(=O)O
reactant | methanol | CO | CH4O
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | pigment | CC1=C(C=CC=C1NC2=NC(=O)C3=C2C(=C(C(=C3Cl)Cl)Cl)Cl)NC4=NC(=O)C5=C4C(=C(C(=C5Cl)Cl)Cl)Cl | C23H8Cl8N4O2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | isoindolinone | C1(NCC2=CC=CC=C12)=O | C8H7NO
product | isoindolinone pigment | C1(NCC2=CC=CC=C12)=O.CC1=C(C=CC=C1NC2=NC(=O)C3=C2C(=C(C(=C3Cl)Cl)Cl)Cl)NC4=NC(=O)C5=C4C(=C(C(=C5Cl)Cl)Cl)Cl | InChI=1S/C23H8Cl8N4O2.C8H7NO/c1-5-6(32-20-8-10(22(36)34-20)14(26)18(30)16(28)12(8)24)3-2-4-7(5)33-21-9-11(23(37)35-21)15(27)19(31)17(29)13(9)25;10-8-7-4-2-1-3-6(7)5-9-8/h2-4H,1H3,(H,32,34,36)(H,33,35,37);1-4H,5H2,(H,9,10)
